US07517896B2
XII.1. 5-Fluoro-2-methoxybenzaldehyde
20.0 g (0.143 mol) of 5-fluoro-2-hydroxybenzaldehyde are dissolved in 250 ml of acetonitrile. 81.04 g (0.57 mol) of iodomethane and 39.5 g (285 mol) of potassium carbonate are added, and the suspension is heated at reflux for 3 hours. The suspension is filtered and the mother liquor is diluted with ethyl acetate, washed twice with water, dried over magnesium sulphate and filtered, and the solvents are evaporated under reduced pressure.

reactant | 5-fluoro-2-hydroxybenzaldehyde | 0.143 mol, 20.0 g | FC=1C=CC(=C(C=O)C1)O | C7H5FO2
reactant | iodomethane | 0.57 mol, 81.04 g | IC | CH3I
reactant | potassium carbonate | 285 mol, 39.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 5-Fluoro-2-methoxybenzaldehyde | FC=1C=CC(=C(C=O)C1)OC | C8H7FO2
